US08084620B2
A mixture of 1H-benzo[d][1,3]oxazine-2,4-dione (200 mg, 1.226 mmol), 3-bromo-2-methylaniline (228 mg, 1.226 mmol), and trimethoxymethane (390 mg, 3.68 mmol) in THF (2 mL) was heated overnight in a sealed tube at 100° C. The mixture was cooled to rt and concentrated, and the residue was purified by column chromatography (eluting with 90:10 to 50:50 hexane-EtOAc) to give 3-(3-bromo-2-methylphenyl)quinazolin-4(3H)-one (140 mg, 36%). 1H NMR (400 MHz, chloroform-d) δ 8.37 (1H, dd, J=8.3, 1.2 Hz), 7.97 (1H, s), 7.76-7.86 (2H, m), 7.72 (1H, t, J=4.6 Hz), 7.57 (1H, ddd, J=8.0, 6.7, 1.5 Hz), 7.21-7.28 (2H, m), 2.26 (3H, s). Mass spectrum m/z 315, 317 (M+H)+.

reactant | 1H-benzo[d][1,3]oxazine-2,4-dione | 1.226 mmol, 200 mg | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | 3-bromo-2-methylaniline | 1.226 mmol, 228 mg | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | trimethoxymethane | 3.68 mmol, 390 mg | COC(OC)OC | C4H10O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)quinazolin-4(3H)-one | 140 mg, 36% | BrC=1C(=C(C=CC1)N1C=NC2=CC=CC=C2C1=O)C | C15H11BrN2O
